US07968570B2
5-Bromo-2-(4-methyl-benzyl)-2,3-dihydro-isoindol-1-one
5-Bromo-2,3-dihydro-isoindol-1-one (1.0 g, 4.72 mmol), 1-bromomethyl-4-methyl-benzene (1.14 g, 6.14 mmol) and cesium carbonate (3.08 g, 9.44 mmol) were suspended in anhydrous NMP (10 mL). The mixture was immersed in a 60° C. oil bath for 16.5 hours. The cooled reaction mixture was poured into water and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over magnesium sulfate, filtered and concentrated. Column chromatography (20% to 40% ethyl acetate/hexanes) provided the title compound as a yellow solid (1.18 g, 79%). 1H NMR CDCl3: 7.76 (d, 1H), 7.62 (d, 1H), 7.55 (s, 1H), 4.76 (s, 2H), 4.24 (s, 2H), 2.35 (s, 3H).

reactant | 5-Bromo-2,3-dihydro-isoindol-1-one | 4.72 mmol, 1.0 g | BrC=1C=C2CNC(C2=CC1)=O | C8H6BrNO
reactant | 1-bromomethyl-4-methyl-benzene | 6.14 mmol, 1.14 g | BrCC1=CC=C(C=C1)C | C8H9Br
reactant | cesium carbonate | 9.44 mmol, 3.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 5-Bromo-2-(4-methyl-benzyl)-2,3-dihydro-isoindol-1-one | 1.18 g, 79% | BrC=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)C | C16H14BrNO
